US05192785
Benzenebutanol
To a stirred suspension of 7.9 g (0.21 mole) of lithium aluminum hydride (Aldrich) in 350 ml of dry ethyl ether was added dropwise a solution of 32.8 g (0.2 mole) of 4-phenylbutyric acid (Aldrich) in 250 ml of dry ethyl ether. The reaction mixture was stirred at ambient temperature for 2 hr, treated successively with 8 ml of water, 25 ml of a 15% sodium hydroxide solution and 8 ml of water, and filtered through Celite®. The filtrate was washed successively with water (200 ml), twice with 300 ml portions of sodium bicarbonate solution, 300 ml of water and dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give 25.0 g (83%) of colorless oil.

reactant | lithium aluminum hydride | 0.21 mole, 7.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-phenylbutyric acid | 0.2 mole, 32.8 g | C1(=CC=CC=C1)CCCC(=O)O | C10H12O2
reactant | water | 8 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 8 ml | O | H2O
solvent | ethyl ether | 350 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 250 ml | C(C)OCC | C4H10O
product | Benzenebutanol | 25.0 g, 83% | C1(=CC=CC=C1)CCCCO | C10H14O
